US05635527
5-Cyano-2-benzofurancarboxylic acid (830 mg, 4.43 mmol) and ethyl 4-aminophenoxyacetate (910 mg, 4.66 mmol) were dissolved in N,N-dimethylformamide (40 ml), and 1-hydroxy-1H-benzotriazole (630 mg, 4.66 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (893 mg, 4.66 mmol) were added. The mixture was stirred at room temperature for 13 hours. Water (100 ml) was added to the reaction mixture. The resulting precipitate was collected by filtration and washed with water to give 1.49 g of ethyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate as a colorless solid (92%).

reactant | 5-Cyano-2-benzofurancarboxylic acid | 4.43 mmol, 830 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | ethyl 4-aminophenoxyacetate | 4.66 mmol, 910 mg | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
reactant | 1-hydroxy-1H-benzotriazole | 4.66 mmol, 630 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 4.66 mmol, 893 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | Water | 100 ml | O | H2O
product | ethyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate | 1.49 g, 92% | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OCC)C=C2)C1 | C20H16N2O5
